US04639518
3-(4-Chlorophenyl)-5,6-dimethoxyquinazolin-2,4(1H, 3H)-dione 1/4 Hydrate
To p-chlorophenyl isocyanate (2.7 ml, 3.22 g, 20.97 mM) in pyridine (4.7 ml) at 0° C. was added a cold solution of 2-amino-5,6-dimethoxybenzoic acid ethyl ester (3.0 g, 13.32 mM) in pyridine (7.1 ml). The reaction mixture solidified shortly after the addition of the ester. The reaction mixture was allowed to go to room temperature but remained a solid. More pyridine (15 ml) was added and the pink slurry stirred at room temperature for three hours. The solvent was removed in vacuo to give a pink solid. The solid was triturated with 300 ml of 1N NaOH (4:1, MeOH:H2O) was added and the solution was heated at reflux for 2 hours. The solvent was removed in vacuo and the reddish solid partially dissolved in H2O (25 ml). The pH was adjusted to 5 with acetic acid and the resulting solid filtered, washed with H2O (~75 ml) and dried to give crude product as a pink solid. The crude product was triturated with MeOH. The insoluble solid was filtered to afford the title compound as a white solid; 2.66 g; mp 269°-273° C., CF3COOH(TMS), 7.10-7.77 (m, 6H, 7-H, 8-H, 9-H, 10-H, 12-H 13-H), 4.12 (s, 3H, 5 or 6-OCH3), 4.07 (s, 3H, 5 or 6-OCH3); M+ 332.

reactant | p-chlorophenyl isocyanate | 20.97 mM, 2.7 ml, 3.22 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 2-amino-5,6-dimethoxybenzoic acid ethyl ester | 13.32 mM, 3.0 g | C(C)OC(C1=C(C=CC(=C1OC)OC)N)=O | C11H15NO4
solvent | pyridine | 4.7 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 7.1 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorophenyl)-5,6-dimethoxyquinazolin-2,4(1H, 3H)-dione | ClC1=CC=C(C=C1)N1C(NC2=CC=C(C(=C2C1=O)OC)OC)=O | C16H13ClN2O4
